US04782050
A. 1-phenylimidazole-2-carboxaldehyde
To 50 ml of dry tetrahydrofuran containing 5.0 g (3.5 mmoles) of 1-phenylimidazole and cooled to -78° C. was added 13.8 ml (3.5 mmoles) of a 2.5M solution of n-butyllithium in hexane and the mixture stirred in the cold for one hour. Ethyl formate (2.8 ml, 3.5 mmoles) was then added and the mixture stirred for 80 minutes. Acetic acid (1.99 ml, 3.5 mmoles) was added and the cooling bath was removed. After stirring for 5 minutes the mixture was poured into water and the product extracted with ethyl acetate. The extracts were combined, dried over magnesium sulfate and concentrated to give 6.58 g of a pale yellow oil which solidified when triturated with a small amount of cold ether, 4.02 g.

reactant | tetrahydrofuran | 3.5 mmoles, 50 ml, 5.0 g | O1CCCC1 | C4H8O
reactant | 1-phenylimidazole | C1(=CC=CC=C1)N1C=NC=C1 | C9H8N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | Ethyl formate | 3.5 mmoles, 2.8 ml | C(=O)OCC | C3H6O2
reactant | Acetic acid | 3.5 mmoles, 1.99 ml | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
product | 1-phenylimidazole-2-carboxaldehyde | 6.58 g | C1(=CC=CC=C1)N1C(=NC=C1)C=O | C10H8N2O
